US07973039B2
Step b) Formation of 1-{[2-(hydroxyamino)but-3-yn-1-yl]sulfonyl}-4-pyridin-2-yl piperazine
To a solution of 1-[(1E)-1-buten-3-ynylsulfonyl]-4-(2-pyridinyl)piperazine (30 mg; 0.11 mmol; 1.00 eq.) in THF (3 mL) was added an aq. solution of hydroxylamine (50%, 0.10 mL; 1.62 mmol; 15.0 eq.) and the resulting reaction mixture was stirred at 60° C. for 4 h. Evaporation of the solvents (rotavap gave an oil). Purification on silicagel (50/50 up to 70/30 AcOEt-c-Hex) a colorless oil (15 mg, 44% yield). LC/MS, M+ (ESI): 311.1, M−(ESI): 311.1, M− (ESI): 309.0.

reactant | 1-[(1E)-1-buten-3-ynylsulfonyl]-4-(2-pyridinyl)piperazine | 0.11 mmol, 30 mg, 1.00 eq. | C(=C\C#C)/S(=O)(=O)N1CCN(CC1)C1=NC=CC=C1 | C13H15N3O2S
reactant | hydroxylamine | 1.62 mmol, 0.10 mL, 15.0 eq. | NO | H3NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-{[2-(hydroxyamino)but-3-yn-1-yl]sulfonyl}-4-pyridin-2-yl piperazine | 15 mg, 44% yield | ONC(CS(=O)(=O)N1CCN(CC1)C1=NC=CC=C1)C#C | C13H18N4O3S
